US07671205B2
A solution of 4-chlorobenzyl bromide in acetone was treated with NaN3 and refluxed for 3 hours. The reactions was concentrated by 50% and diluted with saturated sodium chloride solution. The reaction was then extracted with Et2O, washed with brine, dried (Na2SO4) and concentrated to give 1-(azidomethyl)-4-chlorobenzene.

reactant | 4-chlorobenzyl bromide | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 1-(azidomethyl)-4-chlorobenzene | N(=[N+]=[N-])CC1=CC=C(C=C1)Cl | C7H6ClN3
